US04352818
21.5 g (75.4 mmol) of ethyl 5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylate are dissolved in 250 ml of hot absolute tetrahydrofuran (filtered over Alox basic I) under an argon atmosphere while stirring, cooled to about 30° and treated dropwise with a solution of 1.66 g (75.4 mmol) of lithium borohydride. The mixture is heated to boiling under reflux for 6 hours, cooled to room temperature and treated with 50 ml of 3 N aqueous hydrochloric acid. The mixture is stirred at 60° for a further 2 hours and the tetrahydrofuran is removed in vacuo. The residue is made alkaline with concentrated ammonia and left to stand in an ice-bath for 2 hours. The crude product is filtered off under suction, washed with a large amount of water and recrystallized from ethanol. There is obtained 4,5-dihydro-3-(hydroxymethyl)-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one of melting point 224°-226°.

reactant | ethyl 5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylate | 75.4 mmol, 21.5 g | CN1CC=2N(C3=C(C1=O)C=CC=C3)C=NC2C(=O)OCC | C15H15N3O3
reactant | lithium borohydride | 75.4 mmol, 1.66 g | [BH4-].[Li+]
reactant | hydrochloric acid | 3 N, 50 ml | Cl | ClH
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | 4,5-dihydro-3-(hydroxymethyl)-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one | OCC=1N=CN2C1CN(C(C1=C2C=CC=C1)=O)C | C13H13N3O2
